US07189716B2
2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-morpholin-4-yl-1H-imidazo[4,5-c]pyridine (Scheme IX):
To 2-methyl-6-morpholin-4-yl-3-nitro-pyridin-4-ylamine (220 mg, 0.924 mmol) and 10% palladium on carbon (50 mg) were added methanol (10 mL) under nitrogen. The reaction mixture was stirred under hydrogen atmosphere (hydrogen balloon) for 18 hours. The solution was filtered through a pad of celite and the filtercake was washed with a small amount of MeOH. The product in MeOH was concentrated and used for the next step without purification; LCMS (+ESI, M+H+) m/z 209. To the crude diamino in MeOH (5 mL) was added a solution of 4-iodo-2-methoxy-pyridine-3-carbaldehyde (267 mg, 1.02 mmol) in MeOH (5 mL) at 0° C. and stirred for 0.5 hour. The resulting mixture was allowed to warm to ambient temperature and stirred for 4 days in an open system exposed to air. The reaction mixture was then heated to 50° C. and stirred for 2 days. MeOH was evaporated in vacuo and the crude was purified on silica gel column using CH2Cl2:MeOH (95:5 gradient) to give the title compound as a yellow solid (332 mg, 80%): IR (KBr, cm−1) 1624, 1554, 1458, 1378; 1H NMR (400 MHz, DMSO) δ 12.46 (s, 1H), 8.00 and 7.64 (d, J=5.5, 1H), 6.54 (s, 1H), 3.80 (s, 3H), 3.74–3.72 (m, 4H), 3.38–3.36 (m, 4H), 2.58 (s, 3H); LCMS (+ESI, M+H+) m/z 452; HPLC: 97% (220 nm).

reactant | 2-methyl-6-morpholin-4-yl-3-nitro-pyridin-4-ylamine | 0.924 mmol, 220 mg | CC1=NC(=CC(=C1[N+](=O)[O-])N)N1CCOCC1 | C10H14N4O3
reactant | hydrogen | [H][H] | H2
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 1.02 mmol, 267 mg | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 2-(4-Iodo-2-methoxy-pyridin-3-yl)-4-methyl-6-morpholin-4-yl-1H-imidazo[4,5-c]pyridine | 332 mg, 80% | IC1=C(C(=NC=C1)OC)C=1NC2=C(C(=NC(=C2)N2CCOCC2)C)N1 | C17H18IN5O2
